US06608058B2
Preparation of 2-(1H-6-Indazolylamino)-6-methylnicotinic Acid
To the solution of 2-chloro-6-methylnicotinic acid 10 g and 6-aminoindazole 8.6 g in methanol 100 ml was added pyridine 9.5 ml, and then the solution was refluxed for 3 days. The reaction mixture was cooled, added H20 30 ml slowly at 20° C., and then stirred for 2 hr. The reaction mixture was filtered and the obtained solid was washed with methaol 20 ml. The desired compound (13.3 g, yield 85%) was obtained by drying of the solid product at 40˜50° C. in vacuo.

reactant | 2-chloro-6-methylnicotinic acid | 10 g | ClC1=C(C(=O)O)C=CC(=N1)C | C7H6ClNO2
reactant | 6-aminoindazole | 8.6 g | NC1=CC=C2C=NNC2=C1 | C7H7N3
reactant | pyridine | 9.5 ml | N1=CC=CC=C1 | C5H5N
solvent | methanol | 100 ml | CO | CH4O
product | 2-(1H-6-Indazolylamino)-6-methylnicotinic Acid | 13.3 g, yield 85% | N1N=CC2=CC=C(C=C12)NC1=C(C(=O)O)C=CC(=N1)C | C14H12N4O2
